US04898871
3-Dimethylaminopropylamine (5.1 g) is added at a temperature in the region of 20° C. to a solution of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (12.4 g) in anhydrous dimethylformamide (200 cc), and the reaction mixture is heated to reflux for 8 hours. After being cooled, the reaction mixture is poured into a mixture of water (1200 cc) and ethyl acetate (500 cc) and filtered to remove an insoluble product. The aqueous phase is separated after settling has occurred and then extracted with ethyl acetate (2×250 cc). The organic phases are combined, washed with water (5×80 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. After recrystallization in ethyl acetate, 3-(3-dimethylaminopropylamino)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (5.1 g), m.p. 128° C., is obtained.

reactant | 3-Dimethylaminopropylamine | 5.1 g | CN(CCCN)C | C5H14N2
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 12.4 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | water | 1200 cc | O | H2O
reactant | ethyl acetate | 500 cc | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 200 cc | CN(C=O)C | C3H7NO
product | 3-(3-dimethylaminopropylamino)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 5.1 g | CN(CCCNC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)C | C22H25N5O2
